US07759337B2
Step 3. 4-Methyl-3-(1-morpholinophthalazin-6-yl)benzenesulfonamide
A 50-mL flask under argon were added 6-bromo-1-morpholinophthalazine (150 mg, 0.51 mmol), 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (227 mg, 0.76 mmol), tetrakis(triphenylphosphine)palladium (29 mg, 0.025 mmol), ethyl alcohol (1 mL), and 1,2-dimethoxyethane (4 mL), followed by 2M potassium carbonate aqueous solution (0.77 mL, 1.53 mmol). The reaction was heated at 90° C. for 2 h. The cooled reaction was diluted with CH2Cl2 and washed with saturated aqueous NaHCO3 and brine; dried (MgSO4) and concentrated in vacuo. Trituration of the resulting crude solid with CH2Cl2 afforded a pure batch of the title compound as a white solid. Found MS (ES+): 385.1 (M+H)+.

reactant | 6-bromo-1-morpholinophthalazine | 0.51 mmol, 150 mg | BrC=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C12H12BrN3O
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 0.76 mmol, 227 mg | CC1=C(C=C(C=C1)S(=O)(=O)N)B1OC(C(O1)(C)C)(C)C | C13H20BNO4S
reactant | ethyl alcohol | 1 mL | C(C)O | C2H6O
reactant | potassium carbonate | 1.53 mmol, 2M, 0.77 mL | C([O-])([O-])=O.[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
product | 4-Methyl-3-(1-morpholinophthalazin-6-yl)benzenesulfonamide | CC1=C(C=C(C=C1)S(=O)(=O)N)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C19H20N4O3S
